US08030311B2
Step 69.3: [4-(5-Amino-6-chloro-pyrimidin-4-ylamino)-phenyl]-acetic acid ethyl ester
A mixture of [4-(6-chloro-5-nitro-pyrimidin-4-ylamino)-phenyl]-acetic acid ethyl ester (0.400 g, 1.19 mmol) and Raney Ni (˜0.100 g) in THF (10 mL) is stirred for 20.5 h at rt, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of celite and concentrated. Purification of the residue by silica gel column chromatography (Hexane/EtOAc, 70:30) provides the title compound as a yellow solid: ES-MS: 307.1 [M+H]+; single peak at tR=3.81 min (System 1); Rf=0.06 (Hexane/EtOAc, 70:30).

reactant | [4-(6-chloro-5-nitro-pyrimidin-4-ylamino)-phenyl]-acetic acid ethyl ester | 1.19 mmol, 0.400 g | C(C)OC(CC1=CC=C(C=C1)NC1=NC=NC(=C1[N+](=O)[O-])Cl)=O | C14H13ClN4O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Ni | ˜0.100 g | [Ni] | Ni
product | [4-(5-Amino-6-chloro-pyrimidin-4-ylamino)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)NC1=NC=NC(=C1N)Cl)=O | C14H15ClN4O2
